US08729061B2
Step B5: (2S,3S)-3-(dibenzylamino)-2-hydroxypentanenitrile
Under an atmosphere of argon, (S)-2-(dibenzylamino)butanal (8.55 g, 32.0 mmol, Eq: 1.00) was combined with dioxane (70 ml) to give a light yellow solution. The reaction was stirred for 10 min at 0° C. Then sodium bisulfite in water (40%, 26.5 ml) was added. The reaction was stirred for another 10 min at 0° C. Then potassium cyanide (8.33 g, 128 mmol, Eq: 4), diluted in water (35 ml) was added. The reaction was stirred overnight at RT. The reaction mixture was poured into water (75 ml) and extracted with ethyl acetate (2×75 ml). The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 50 g, 0% to 40% ethyl acetate in heptane). The title compound was obtained as a light yellow oil (6.49 g, 68.9%, MS (m/e)=295.3 [M+H+]).

reactant | (S)-2-(dibenzylamino)butanal | 32.0 mmol, 8.55 g | C(C1=CC=CC=C1)N([C@H](C=O)CC)CC1=CC=CC=C1 | C18H21NO
reactant | dioxane | 70 ml | O1CCOCC1 | C4H8O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | potassium cyanide | 128 mmol, 8.33 g | [C-]#N.[K+]
solvent | water | 26.5 ml | O | H2O
solvent | water | 35 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | (2S,3S)-3-(dibenzylamino)-2-hydroxypentanenitrile | C(C1=CC=CC=C1)N([C@H]([C@@H](C#N)O)CC)CC1=CC=CC=C1 | C19H22N2O
